US06809200B2
5-(5-Acetyl-2butoxy-3-pyridinyl)-3ethyl-2-(1-ethyl-3-azetidinyl)-2,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one
To a stirred suspension of 5-Acetyl-N-[3-(aminocarbonyl)-5-ethyl-1-(1-ethyl-3-azetidinyl)-1H-pyrazol-4-yl]-2-ethoxynicotinamide, the title compound of Preparation 2(e), (0.41 g, 0.96 mMol) in n-butanol (4 mL) under nitrogen atmosphere at room temperature was added n-butyl acetate (1.92 mMol, 0.25 mL) followed by potassium tert-butoxide (14.4 mMol, 162 mg) as a single solid portion. The reaction was left to stir at room temperature for 5 minutes before being heated to reflux overnight. The reaction was not complete so further n-butyl acetate (1.92 mMol, 0.25 mL) and potassium tert-butoxide (1.92 mMol, 215 mg) were added and the reaction was heated to reflux for a further 2 h. The reaction was allowed to cool to room temperature and then reduced to low volume (ca 1 mL) at reduced pressure. The crude concentrate was then diluted with DCM (50 mL) and washed with water (50 mL). The bi-phasic mixture was then passed through a pad of celite and the cake was washed with further DCM (50 mL). The two phases were then treated with brine (20 mL) and separated. The aqueous phase was then extracted with DCM (3×40 mL). The combined organics were then evaporated at reduced pressure to afford a dark brown oil that appeared to contain residual n-butanol. The crude residue was triturated with hexane (10 mL) and the resultant tan solid isolated by decanting the liquors to afford the title compound, 0.50 g, yield by HPLC=50%. M/Z=439 (M+H)+.

reactant | 5-Acetyl-N-[3-(aminocarbonyl)-5-ethyl-1-(1-ethyl-3-azetidinyl)-1H-pyrazol-4-yl]-2-ethoxynicotinamide | C(C)(=O)C=1C=NC(=C(C(=O)NC=2C(=NN(C2CC)C2CN(C2)CC)C(=O)N)C1)OCC | C21H28N6O4
reactant | n-butanol | 4 mL | C(CCC)O | C4H10O
product | 5-(5-Acetyl-2butoxy-3-pyridinyl)-3ethyl-2-(1-ethyl-3-azetidinyl)-2,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | C(C)(=O)C=1C=C(C(=NC1)OCCCC)C=1NC(C=2C(N1)=C(N(N2)C2CN(C2)CC)CC)=O | C23H30N6O3
